US06583179B2
D. Preparation of 4-Iodobenzamide Resin
The optically pure resin-bound secondary amine resin (from C) was swelled in DCM (200 mL). To the suspension was added pyridine (3.19 g) and then 4-iodobenzoyl chloride (5.3 g, 20.0 millimole). The suspension was shaken overnight. The resin was filtered and washed with 3 portions of DCM, 3 portions of methanol, 3 portions of DCM, and 3 portions of methanol. The resin was dried in vacuo overnight.

reactant | pyridine | 3.19 g | N1=CC=CC=C1 | C5H5N
reactant | 4-iodobenzoyl chloride | 20.0 millimole, 5.3 g | IC1=CC=C(C(=O)Cl)C=C1 | C7H4ClIO
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | 4-Iodobenzamide | IC1=CC=C(C(=O)N)C=C1 | C7H6INO
